US08754095B2
2-(4-Bromo-phenyl)-N-(tetrahydro-pyran-4-yl)-acetamide
The title compound was prepared in substantially the same way as intermediate (iv) by coupling of tetrahydropyran-4-yl amine with (4-bromo-phenyl)-acetic acid to give 0.65 g (100% yield) as a thick oil which solidified on standing.

reactant | tetrahydropyran-4-yl amine | O1CCC(CC1)N | C5H11NO
reactant | (4-bromo-phenyl)-acetic acid | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
product | 2-(4-Bromo-phenyl)-N-(tetrahydro-pyran-4-yl)-acetamide | 100% yield | BrC1=CC=C(C=C1)CC(=O)NC1CCOCC1 | C13H16BrNO2
